US05587389
14. 2-{[[4-(2-Furylmethylthio)-3-methyl-2-pyridinyl]methyl]thio}-5-(2,2,2-trifluoroethoxy)-1H-benzimidazole dihydrochloride
Following the procedure described in Example 12, the reaction of 2-chloromethyl-4-(2-furylmethylthio)-3-methylpyridine hydrochloride with 2-mercapto-5-(2,2,2-trifluoroethoxy)-1H-benzimidazole in isopropanol gives the title compound as a colorless solid; m.p. 161-163° C. (decomp.).

reactant | 2-chloromethyl-4-(2-furylmethylthio)-3-methylpyridine hydrochloride | Cl.ClCC1=NC=CC(=C1C)SCC=1OC=CC1
reactant | 2-mercapto-5-(2,2,2-trifluoroethoxy)-1H-benzimidazole | SC1=NC2=C(N1)C=CC(=C2)OCC(F)(F)F | C9H7F3N2OS
solvent | isopropanol | C(C)(C)O | C3H8O
product | 2-{[[4-(2-Furylmethylthio)-3-methyl-2-pyridinyl]methyl]thio}-5-(2,2,2-trifluoroethoxy)-1H-benzimidazole dihydrochloride | Cl.Cl.O1C(=CC=C1)CSC1=C(C(=NC=C1)CSC1=NC2=C(N1)C=CC(=C2)OCC(F)(F)F)C | InChI=1S/C21H18F3N3O2S2.2ClH/c1-13-18(25-7-6-19(13)30-10-15-3-2-8-28-15)11-31-20-26-16-5-4-14(9-17(16)27-20)29-12-21(22,23)24;;/h2-9H,10-12H2,1H3,(H,26,27);2*1H
